*$
*//-----------------------------------------------------------------------//
*//   Part      : HXJ_35V_180uF_HA0_7
*//   Date      : 2019/12/03
*//   Model     : RC-ladder 7 Element Model
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ350ARA181MHA0G_20deg-C 1 2

C1 4 2 1.065e-04
C2 5 2 2.574e-05
C3 6 2 1.545e-05
R1 3 4 1.038e-02
R2 4 5 7.264e-02
R3 5 6 1.200e+00
L1 1 3 3.600e-09

.ENDS
*$
